US04666907
Synthesis of 3-acetoxy-4-bromo-2,7-dimethoxy-10H-phenothiazine-5-oxide
To a solution of 3-acetoxy-4-bromo-2,7-dimethoxy-10H-phenothiazine (10.0 g) in dichloromethane (125 ml) and methanol (125 ml) there was added at room temperature 85% m-chloro peroxybenzoic acid (4.36 g). The mixture was stirred for one hour and the solid was filtered and washed with ether. This crude product was stirred at room temperature in dichloromethane (50 ml) overnight and filtered again to afford pure title product (7.7 g). m.p.: 243°-247° C. (dec).

reactant | 3-acetoxy-4-bromo-2,7-dimethoxy-10H-phenothiazine | 10.0 g | C(C)(=O)OC=1C(=CC=2NC3=CC=C(C=C3SC2C1Br)OC)OC | C16H14BrNO4S
reactant | m-chloro peroxybenzoic acid | 4.36 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | dichloromethane | 125 ml | ClCCl | CH2Cl2
solvent | methanol | 125 ml | CO | CH4O
product | 3-acetoxy-4-bromo-2,7-dimethoxy-10H-phenothiazine-5-oxide | 7.7 g | C(C)(=O)OC=1C(=CC=2NC3=CC=C(C=C3S(C2C1Br)=O)OC)OC | C16H14BrNO5S
